US08168658B2
A solution of tert-butyl 4-(2-methoxy-2-oxoethyl)benzoate (800 mg, 3.20 mmol) in THF (15 mL) was cooled to −78° C. before adding lithium hexamethyldisilazide (1M in THF, 4.16 mL, 4.16 mmol) dropwise. After 15 minutes, Eschenmoser's salt (1.18 g, 6.40 mmol) was added in one portion. The reaction was stirred at −78° C. for 5 minutes, warmed to room temperature, and stirred an additional 1 h. The mixture was diluted with water and extracted with EtOAc. The organic layer was then extracted with 1N HCl. The acidic aqueous layer was neutralized with sat. NaHCO3 and extracted with EtOAc. The new organic extracts were dried over MgSO4 and evaporated to yield tert-butyl 4-{1-[(dimethylamino)methyl]-2-methoxy-2-oxoethyl}benzoate as a white solid. 1H NMR (CDCl3) δ 7.91 (d, J=8.5 Hz, 2H), 7.35 (d, J=8.2 Hz, 2H), 3.84 (dd, J=9.7, 5.6 Hz, 1H), 3.65 (s, 3H), 3.10 (dd, J=12.3, 9.7 Hz, 1H), 2.47 (dd, J=12.3, 5.6 Hz, 1H), 2.24 (s, 6H), 1.55 (s, 9H). MS (ESI) calcd [M+H]+ 308.1, found 308.1.

reactant | tert-butyl 4-(2-methoxy-2-oxoethyl)benzoate | 3.20 mmol, 800 mg | COC(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C14H18O4
reactant | lithium hexamethyldisilazide | 4.16 mmol, 1M, 4.16 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Eschenmoser's salt | 6.40 mmol, 1.18 g | C[N+](=C)C.[I-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 4-{1-[(dimethylamino)methyl]-2-methoxy-2-oxoethyl}benzoate | CN(C)CC(C(=O)OC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H25NO4
